US05030736
3-Hydroxy-2-(3-methyl-1-oxo-2-buten-1-yl) thiophene (3)
A solution of boron trichloride, (1.0M in dichloromethane, 800 mL, 0.80 mol) was slowly added to a solution of 3-methoxy-2-(3-methyl-1-oxo-2-buten-1-yl) thiophene (52.3 g, 0.27 mol) in dichloromethane (400 mL) at -10° C. to 5° C. The resultant solution was stirred an additional 1.5 h at -5° C. Ice water was added slowly with rapid stirring. The organic layer was separated, dried over sodium sulfate, and eluted through a pad of silica gel. The solvent was evaporated in vacuo and the resultant oil was crystallized from hexanes at -70° C. to give the product, 40.0 g (82%), as a yellow solid: mp 32°-33° C.; IR (KBr): 1641, 1581 and 1541 cm-1 ; MS: m/z 183 (MH+); 1H NMR (CDCl3): δ2.00(d, J=1.1 Hz, 3H), 2.30(d, J=1.0 Hz, 3H), 6.25(m, 1H), 6.75(d, J=5.3 Hz, 1H), 7.37(d, J=5.3 Hz, 1H) and 12.14(s, exchanges with D2O, 1H).

reactant | boron trichloride | B(Cl)(Cl)Cl | BCl3
reactant | 3-methoxy-2-(3-methyl-1-oxo-2-buten-1-yl) thiophene | 0.27 mol, 52.3 g | COC1=C(SC=C1)C(C=C(C)C)=O | C10H12O2S
reactant | KBr | [K+].[Br-]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
product | 3-Hydroxy-2-(3-methyl-1-oxo-2-buten-1-yl) thiophene | OC1=C(SC=C1)C(C=C(C)C)=O | C9H10O2S
